US04617307
5-p-Cyanophenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine hydrochloride
A solution of 1.13 g of 5-p-carbamoylphenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine and 1.0 ml of phosphorus oxychloride in 30 ml of chloroform is refluxed for 15 hours, cooled and evaporated with toluene. The resulting oil is redissolved in 30 ml of methylene chloride, cooled to 0° and 30 ml of an ice-cold solution of 50% ammonium hydroxide solution is added. The organic phase is separated, dried and evaporated to an oil. Filtration through 20 g of silica with ethyl acetate yields the free title compound which is dissolved in 20 ml of acetone and treated with 1.2 ml of 3N ethereal hydrogen chloride to yield its hydrochloride, m.p. 209°-210°.

reactant | 5-p-carbamoylphenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | 1.13 g | C(N)(=O)C1=CC=C(C=C1)C1CCCC=2N1C=NC2 | C14H15N3O
reactant | phosphorus oxychloride | 1.0 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-p-Cyanophenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine hydrochloride | Cl.C(#N)C1=CC=C(C=C1)C1CCCC=2N1C=NC2 | InChI=1S/C14H13N3.ClH/c15-8-11-4-6-12(7-5-11)14-3-1-2-13-9-16-10-17(13)14;/h4-7,9-10,14H,1-3H2;1H
